US08314240B2
840 mg of methyl 4-[(2-{[(2R)-3-{[tert-butyl(diphenyl)silyl]oxy}-2-methylpropyl](pyridin-2-ylsulfonyl)amino}-4,5-diphenylphenoxy)methyl]benzoate was dissolved in 8.40 mL of THF, and 0.554 mL of a 1 M tetrabutyl ammonium fluoride/THF solution was added thereto at room temperature, followed by stirring at room temperature for 2 hours. To the reaction liquid was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=60:40 to 0:100) to obtain 468 mg of methyl 4-[(2-{[(2R)-3-hydroxy-2-methylpropyl](pyridin-2-ylsulfonyl)amino}-4,5-dimethylphenoxy)methyl]benzoate.

reactant | methyl 4-[(2-{[(2R)-3-{[tert-butyl(diphenyl)silyl]oxy}-2-methylpropyl](pyridin-2-ylsulfonyl)amino}-4,5-diphenylphenoxy)methyl]benzoate | 840 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H](CN(C1=C(OCC2=CC=C(C(=O)OC)C=C2)C=C(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=NC=CC=C1)C | C52H52N2O6SSi
reactant | tetrabutyl ammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 8.40 mL | C1CCOC1 | C4H8O
product | methyl 4-[(2-{[(2R)-3-hydroxy-2-methylpropyl](pyridin-2-ylsulfonyl)amino}-4,5-dimethylphenoxy)methyl]benzoate | 468 mg | OC[C@@H](CN(C1=C(OCC2=CC=C(C(=O)OC)C=C2)C=C(C(=C1)C)C)S(=O)(=O)C1=NC=CC=C1)C | C26H30N2O6S
